US06180622B2
Acetic acid (0.19 ml) and 1.1 ml of a 1 M tetra-n-butylammonium fluoride/THF are added to a solution of 155 mg of the high polar component (stereoisomer A) of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidin-3-yl]thio-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-1-methylcarbapen-2-em-3-carboxylate in 3.3 ml of anhydrous THF, and the mixture is stirred in an argon atmosphere at room temperature for 39 hr. The reaction solution is diluted with 30 ml of ethyl acetate, and the diluted solution is washed with semi-saturated saline and dried over anhydrous magnesium sulfate, followed by filtration and the removal of the solvent by evaporation to give a slightly yellow oil. This oil is successively purified by column chromatography on silica gel (ethyl acetate:methanol=95:5) and on Sephadex LH-20 (dichloromethane:methanol=1:1) to give 117 mg of allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate (stereoisomer A) as a yellow viscous material.

reactant | Acetic acid | 0.19 ml | C(C)(=O)O | C2H4O2
reactant | tetra-n-butylammonium fluoride THF | 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC.C1CCOC1
reactant | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidin-3-yl]thio-6-[(1R)-1-(t-butyldimethylsilyloxy)ethyl]-1-methylcarbapen-2-em-3-carboxylate | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C1=NC=C2SC=CN21)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O[Si](C)(C)C(C)(C)C)=O)C | C33H46N4O7S2Si
solvent | THF | 3.3 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | allyl(1R,5S,6S)-2-[(3S,5S)-1-allyloxycarbonyl-5-[1-hydroxy-1-(imidazo[5,1-b]thiazol-5-yl)methyl]pyrrolidin-3-yl]thio-6-((1R)-1-hydroxyethyl)-1-methylcarbapen-2-em-3-carboxylate | 117 mg | C(C=C)OC(=O)N1C[C@H](C[C@H]1C(C1=NC=C2SC=CN21)O)SC=2[C@@H]([C@H]1N(C2C(=O)OCC=C)C([C@@H]1[C@@H](C)O)=O)C | C27H32N4O7S2
